US07834052B2
1-Bromomethyl-3-chloro-2-nitrobenzene
N-Bromosuccinimide (4.67 g, 26.23 mmol) was added to a stirred solution of 6-methyl-2-chloro-1-nitrobenzene (4.5 g, 26.23 mmol) in distilled carbon-tetrachloride. Benzoyl peroxide (0.01 g) was added to the reaction mixture and the mixture was refluxed for 8 h. The solid separated was filtered. The filtrate was concentrated to get the crude product, which was purified by using column chromatography (silica gel, pet.ether 60-80° C.) to obtain the title compound. Yield: 2.69 g, (41%); MS: m/e (CI) 253 (M+1).

reactant | N-Bromosuccinimide | 26.23 mmol, 4.67 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | 6-methyl-2-chloro-1-nitrobenzene | 26.23 mmol, 4.5 g | CC1=CC=CC(=C1[N+](=O)[O-])Cl | C7H6ClNO2
reactant | Benzoyl peroxide | 0.01 g | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
solvent | carbon-tetrachloride | C(Cl)(Cl)(Cl)Cl | CCl4
product | 1-Bromomethyl-3-chloro-2-nitrobenzene | BrCC1=C(C(=CC=C1)Cl)[N+](=O)[O-] | C7H5BrClNO2
